US07115611B2
B] 3-(4-Hydroxy-2-methyl-phenyl)-propionic acid ethyl ester
5 g (16.8 mmol) of the above prepared (E)-3-(4-benzyloxy-2-methyl-phenyl)-acrylic acid ethyl ester was dissolved in 50 ml of tetrahydrofuran and hydrogenated over 0.8 g of 10% of palladium on charcoal as catalyst at ambient temperature and atmospheric pressure. Filtering off the catalyst and evaporating the solvent yielded 3.5 g of the title compound as light yellow oil (100% of theory).

reactant | (E)-3-(4-benzyloxy-2-methyl-phenyl)-acrylic acid ethyl ester | C(C)OC(\C=C\C1=C(C=C(C=C1)OCC1=CC=CC=C1)C)=O | C19H20O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 0.8 g | [Pd] | Pd
product | 3-(4-Hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | 3.5 g, 100% | C(C)OC(CCC1=C(C=C(C=C1)O)C)=O | C12H16O3
